US08044041B2
A mixture of 1,4-dichloro-phthalazine-6-carboxylic acid m-tolylamide (350 mg, 0.87 mmol), 2N NaOH (4.4 mL, 8.70 mmol) and dioxane (4 mL) was heated to 50° C. for 3 h. The reaction was diluted with water, acidified with conc. HCl to ˜pH 6. The reaction mixture was concentrated to low volume and filtered through celite. Chromatography (Hex/EtOAc) afforded 1-chloro-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid m-tolylamide (8 mg) as a pale yellow solid, 1H NMR (400 MHz, d6-DMSO) δ: 2.32 (s, 3H), 7.96 (d, 1H), 7.26 (t, 1H), 7.60 (d, 1H), 7.65 (s, 1H), 8.14 (d, 1H), 8.52 (dd, 1H), 8.87 (s, 1H), 10.67 (s, 1H), 13.00 (bs, 1H) ppm; m/z (M−1) 312.13; and 4-chloro-1-oxo-1,2-dihydro-phthalazine-6-carboxylic acid m-tolylamide (23 mg) as a pale yellow solid. 1H NMR (400 MHz, d6-DMSO) δ: 2.11 (s, 3H), 6.76 (m, 1H), 7.05 (m, 1H), 7.40 (m, 2H), 8.25 (m, 3H), 10.42 (s, 1H), 12.80 (s, 1H) ppm; m/z (M−1) 312.13.

reactant | 1,4-dichloro-phthalazine-6-carboxylic acid m-tolylamide | 0.87 mmol, 350 mg | C1(=CC(=CC=C1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)Cl)Cl)C | C16H11Cl2N3O
reactant | NaOH | 8.70 mmol, 2N, 4.4 mL | [OH-].[Na+]
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 1-chloro-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid m-tolylamide | 8 mg | C1(=CC(=CC=C1)NC(=O)C=1C=C2C(NN=C(C2=CC1)Cl)=O)C | C16H12ClN3O2
